US05004745
The 3-ethoxycarbonyl-7,9-difluoro-4-oxo-8-(1-piperazinyl)-1-tert.-butyl-1,4-dihydro-benzo[b][1,8]naphthyridine was prepared under the conditions of Example 35, but starting from 1.9 g of 3-ethoxycarbonyl-7,8,9-trifluoro-4-oxo-1-tert.-butyl-1,4-dihydro-benzo[b][1,8]naphthyridine and 4.3 g of piperazine. After recrystallizing once from 50 cm3 of diisopropyl ether and 10 cm3 of propan-2-ol, 2 g of 3-ethoxycarbonyl-7,9-difluoro-4-oxo-8-(1-piperazinyl)-1-tert.-butyl-1,4-dihydro-benzo[b][1,8]naphthyridine are obtained in the form of a yellow solid melting at 186° C.

reactant | 3-ethoxycarbonyl-7,8,9-trifluoro-4-oxo-1-tert.-butyl-1,4-dihydro-benzo[b][1,8]naphthyridine | 1.9 g | C(C)OC(=O)C=1C(C=2C=C3C(=NC2N(C1)C(C)(C)C)C(=C(C(=C3)F)F)F)=O | C19H17F3N2O3
reactant | piperazine | 4.3 g | N1CCNCC1 | C4H10N2
product | 3-ethoxycarbonyl-7,9-difluoro-4-oxo-8-(1-piperazinyl)-1-tert.-butyl-1,4-dihydro-benzo[b][1,8]naphthyridine | C(C)OC(=O)C=1C(C=2C=C3C(=NC2N(C1)C(C)(C)C)C(=C(C(=C3)F)N3CCNCC3)F)=O | C23H26F2N4O3
